US04826846
8-[3-[4-(3-Methylphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione hydrochloride hemihydrate
A mixture of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (5.0 g), 1-(3-methylphenyl)piperazine dihydrochloride (4.11 g), K2CO3 (9.1 g), NaI (100 mg) and n-Bu4NBr (100 mg) in 100 ml of dry tolune was heated at 80° with stirring under N2. After 4 hours, 50 ml of CH3CN was added. Heating was continued for 18 hr. and 5 ml of Et3N was added. Heating was continued for an additional 6 hr and at which time no starting material remained by TLC. The mixture was cooled to room temperature and filtered. The solvents were removed in vacuo and the residue was chromatographed on silica using ethyl acetate as the eluent. The fractions containing the desired product were combined and concentrated in vacuo.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 5.0 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(3-methylphenyl)piperazine dihydrochloride | 4.11 g | Cl.Cl.CC=1C=C(C=CC1)N1CCNCC1
reactant | K2CO3 | 9.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 100 mg | [Na+].[I-]
catalyst | n-Bu4NBr | 100 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 8-[3-[4-(3-Methylphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione hydrochloride hemihydrate | O.Cl.CC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.CC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.Cl | InChI=1S/2C23H33N3O3.2ClH.H2O/c2*1-19-6-4-7-20(16-19)25-13-11-24(12-14-25)10-5-15-29-26-21(27)17-23(18-22(26)28)8-2-3-9-23;;;/h2*4,6-7,16H,2-3,5,8-15,17-18H2,1H3;2*1H;1H2
